US07893056B2
A solution of [(2R)-2-(cyclopentylmethyl)-3-(2-{6-[(2S)-2,4-dimethyl-1-piperazinyl]-5-fluoro-2-methyl-4-pyrimidinyl}hydrazino)-3-oxopropyl][(phenylmethyl)oxy]formamide (0.118 g, 0.22 mmol) and Pd(C) (0.018 g) in MeOH (10 mL) was treated as in General Procedure A, Part C, to provide [(2R)-2-(cyclopentylmethyl)-3-(2-{6-[(2S)-2,4-dimethyl-1-piperazinyl]-5-fluoro-2-methyl-4-pyrimidinyl}hydrazino)-3-oxopropyl]hydroxyformamide as a white solid (0.089 g, 91%). LCMS: (M+H)+=452.4.

reactant | [(2R)-2-(cyclopentylmethyl)-3-(2-{6-[(2S)-2,4-dimethyl-1-piperazinyl]-5-fluoro-2-methyl-4-pyrimidinyl}hydrazino)-3-oxopropyl][(phenylmethyl)oxy]formamide | 0.22 mmol, 0.118 g | C1(CCCC1)C[C@H](CN(C=O)OCC1=CC=CC=C1)C(=O)NNC1=NC(=NC(=C1F)N1[C@H](CN(CC1)C)C)C | C28H40FN7O3
solvent | MeOH | 10 mL | CO | CH4O
product | [(2R)-2-(cyclopentylmethyl)-3-(2-{6-[(2S)-2,4-dimethyl-1-piperazinyl]-5-fluoro-2-methyl-4-pyrimidinyl}hydrazino)-3-oxopropyl]hydroxyformamide | 0.089 g, 91% | C1(CCCC1)C[C@H](CN(C=O)O)C(=O)NNC1=NC(=NC(=C1F)N1[C@H](CN(CC1)C)C)C | C21H34FN7O3
